US06969711B2
To a solution of 2-[4-[2-(benzimidazol-2ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide (1.00 g, 1.99 mmol) in acetic acid (20 ml) was dropped a solution of sodium perborate tetrahydrate (321 mg, 2.09 mmol) in acetic acid (30 ml), and the mixture was stirred for 3 hours. The reaction solution was concentrated in vacuo and the resulting residue was purified by a silica gel preparative thin layer chromatography (developing solvent; chloroform:sat. ammonia methanol 15:1) to provide 73 mg (yield 7%) of 2-[4-[2-(benzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[4-methanesulfinyl-6-methyl-2-(methylthio)-3-pyridyl]acetamide as pale yellow oil. IR (KBr) cm−1: 3375, 2496, 1672, 1553, 1122. 1H-NMR (CD3OD) δ: 2.45 (3H, s), 2.51 (3H, s), 2.52-2.64 (8H,m), 2.70 (2H, t, J=6.8 Hz), 2.72 (3H, s), 3.04 (1H, d, J=16.1 Hz), 3.13 (1H, d, J=16.1 Hz), 3.30 (2H, t, J=6.8 Hz), 7.04-7.10 (2H, m), 7.32 (1H, s), 7.33-7.38 (2H, m), 7.78 (1H, s).

reactant | 2-[4-[2-(benzimidazol-2ylthio)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide | 1.99 mmol, 1.00 g | N1=C(NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2SC)C)SC | C23H30N6OS3
reactant | sodium perborate tetrahydrate | 2.09 mmol, 321 mg | B1(OO1)[O-].O.O.O.O.[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-[4-[2-(benzimidazol-2-ylthio)ethyl]piperazin-1-yl]-N-[4-methanesulfinyl-6-methyl-2-(methylthio)-3-pyridyl]acetamide | 73 mg, yield 7% | N1=C(NC2=C1C=CC=C2)SCCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2S(=O)C)C)SC | C23H30N6O2S3
